US04309423
A solution of 211 mg of sodium bicarbonate in 2.6 ml of water is added to a solution of 100 mg of 19,21-dihydroxypregna-4,6-diene-3,20-dione diacetate in 6.5 ml of methanol and the mixture is heated under reflux for 3 hours and concentrated in vacuo. A solution of the residue in methylene chloride is washed with a 15% aqueous sodium chloride solution, dried with sodium sulphate and concentrated in vacuo. The residue is taken up in a mixture of hexane and ethyl acetate (1:1) and chromatographed over silica gel. After evaporating off the solvent, the product is dissolved and allowed to crystallise from methylene chloride/diethyl ether/diisopropyl ether, yielding 19,21-dihydroxypregna-4,6-diene-3,20-dione, melting point: 161°-164°.

reactant | sodium bicarbonate | 211 mg | C([O-])(O)=O.[Na+]
reactant | 19,21-dihydroxypregna-4,6-diene-3,20-dione diacetate | 100 mg | C(C)(=O)O.C(C)(=O)O.OC[C@]12CCC(C=C1C=C[C@H]1[C@@H]3CC[C@H](C(CO)=O)[C@]3(CC[C@H]21)C)=O
solvent | water | 2.6 ml | O | H2O
solvent | methanol | 6.5 ml | CO | CH4O
product | 19,21-dihydroxypregna-4,6-diene-3,20-dione | OC[C@]12CCC(C=C1C=C[C@H]1[C@@H]3CC[C@H](C(CO)=O)[C@]3(CC[C@H]21)C)=O | C21H28O4
